### ISSUE TITLE
🔬 ThinkFreeCoins Challenge: Photonic SU(N) Group Theory - 300 TFC Reward

### ISSUE THREAD

**Issue by dirkenglund** [dirkenglund/photonic-multi-agent-system#15]
# 🔬 ThinkFreeCoins Challenge: Photonic SU(N) Group Theory

## Challenge Details
**Base Reward**: 300 ThinkFreeCoins ($300 USD)  
**Time-Based Rewards**:
- 🏃‍♂️ **10 TFC** if solved within 24 hours  
- 🚶‍♂️ **5 TFC** if solved within 7 days  
- ❌ **0 TFC** after 7 days

**Difficulty**: Advanced  
**Field**: Photonics, Group Theory, Quantum Optics
**Time Estimate**: 45-90 minutes  
**Status**: 🔴 **OPEN** - Expert solver needed!
**Based on**: [Directionally unbiased optical multiports (arXiv:1604.06476)](https://arxiv.org/abs/1604.06476)

## ⏰ Time Remaining  
- **24-hour fast solve deadline**: ~23 hours remaining
- **7-day standard deadline**: ~7 days remaining

## Your Task
Formalize the mathematical structure of photonic SU(N) devices using Lean 4:

```lean
import Mathlib.GroupTheory.SpecialLinearGroup
import Mathlib.LinearAlgebra.UnitaryGroup  
import Mathlib.LinearAlgebra.Matrix.SpecialLinearGroup
import Mathlib.Data.Complex.Basic

-- Define SU(N) group for photonic multiports
variable (n : ℕ) [Fact (0 < n)]

-- SU(N) matrices for optical transformations
def PhotonicSU (n : ℕ) := Matrix.SpecialUnitaryGroup (Fin n) ℂ

-- Multiport scattering matrix
def ScatteringMatrix (n : ℕ) := Matrix (Fin n) (Fin n) ℂ

-- CHALLENGE 1: Prove optical unitarity constraint
theorem photonic_unitarity (S : ScatteringMatrix n) 
  (hS : S ∈ PhotonicSU n) :
  S * S† = 1 ∧ S† * S = 1 := by
  sorry -- YOUR TASK: Prove scattering matrices are unitary

-- Bell state transformation under SU(2) 
def BellTransform : PhotonicSU 2 → Matrix (Fin 4) (Fin 4) ℂ := 
  sorry -- YOUR TASK: Define how SU(2) acts on Bell states

-- CHALLENGE 2: Prove group homomorphism property
theorem bell_transform_homomorphism :
  ∀ (g h : PhotonicSU 2), 
  BellTransform (g * h) = BellTransform g * BellTransform h := by
  sorry -- YOUR TASK: Prove this is a group homomorphism

-- CHALLENGE 3: Directional unbiasing theorem  
theorem directionally_unbiased (S : ScatteringMatrix n)
  (hS : S ∈ PhotonicSU n) :
  ∀ (i j : Fin n), ∃ (c : ℂ), Complex.abs c = (1 : ℝ) / Real.sqrt n ∧
  ∀ (k : Fin n), ∃ (φ : ℝ), S i k = c * Complex.exp (Complex.I * φ) := by  
  sorry -- YOUR TASK: Prove uniform amplitude distribution

-- CHALLENGE 4: Quantum gate probabilistic implementation
theorem probabilistic_gate_implementation 
  (target_gate : Matrix (Fin 4) (Fin 4) ℂ)
  (htarget : target_gate.IsUnitary) :
  ∃ (prob : ℝ) (multiport : PhotonicSU 4),
  prob > 0 ∧ prob ≤ 1 ∧
  ∃ (success_projector : Matrix (Fin 4) (Fin 4) ℂ),
  success_projector * (multiport : Matrix (Fin 4) (Fin 4) ℂ) = 
  Real.sqrt prob • target_gate * success_projector := by
  sorry -- YOUR TASK: Prove probabilistic implementation exists
```

## Physical Background 🔬
This challenge formalizes key results from **"Directionally unbiased optical multiports"**:

- **SU(N) Multiports**: Optical devices imposing special unitary group structure
- **Bell State Processing**: Universal quantum state manipulation via linear optics
- **Directional Unbiasing**: Uniform probability amplitude distribution property  
- **Probabilistic Gates**: Non-deterministic quantum computation via post-selection

## Mathematical Concepts
- **Special Unitary Group SU(N)**: Matrices with determinant 1 and unitary property
- **Scattering Matrix**: Describes input-output relationships in optical systems
- **Group Homomorphism**: Structure-preserving maps between groups
- **Projective Measurements**: Quantum mechanical observation process

## Time-Based Rewards 🎯
- **First 24 hours**: 10 TFC (lightning fast solve!)
- **Days 2-7**: 5 TFC (standard expert reward)  
- **After 7 days**: 0 TFC (challenge expires)

## Success Criteria ✅
- Complete the `BellTransform` definition
- Prove all four theorems without `sorry`
- Use Mathlib's group theory and linear algebra libraries  
- Demonstrate understanding of photonic device physics

## Research Impact 🎯
Successfully completing this proves your ability to:
- Formalize cutting-edge photonics research in Lean 4
- Bridge quantum optics and formal mathematics
- Contribute to the intersection of physics and proof assistants

**Ready to formalize quantum photonics? Earn up to 10 ThinkFreeCoins!** 🏆

**Comment by dirkenglund** [comment]
Closing legacy issue - system rebuilt with production LEAN4 contract system
